US07790756B2
A solution of 1,3-difluoro-2-methylbenzene (15 g, 0.12 mol) in H2SO4 (100 mL) was treated dropwise with HNO3 (65%, 11.4 g, 0.12 mol) at −10° C. The resultant mixture was stirred for about 30 min. The mixture was poured into ice-water and extracted with EtOAc (3×200 mL). The combined organics were washed with brine, dried (NaSO4) and concentrated in vacuo to give 1,3-difluoro-2-methyl-4-nitrobenzene (16 g, 78% yield). 1H NMR (400 MHz, CDCl3) δ 7.80 (m, 1H), 6.8-7.1 (m, 1H), 2.30 (s, 3H).

reactant | 1,3-difluoro-2-methylbenzene | 0.12 mol, 15 g | FC1=C(C(=CC=C1)F)C | C7H6F2
reactant | HNO3 | 0.12 mol, 11.4 g | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | 1,3-difluoro-2-methyl-4-nitrobenzene | 16 g, 78% yield | FC1=C(C(=C(C=C1)[N+](=O)[O-])F)C | C7H5F2NO2
